US07723347B2
N4-[3-Fluoro-4-(1H-pyrrolo[2,3-b]pyridin-4-ylamino)phenyl]-6-pyridin-4-ylpyrimidine-2,4-diamine
70 mg (0.19 mmol) of 2-fluoro-N1-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-4-yl)benzene-1,4-diamine and 41 mg (0.20 mmol) of 4-chloro-6-pyridin-4-ylpyrimidine-2-amine are suspended in 2.5 ml of water. 27 μl (0.28 mmol) of a 37% strength hydrochloric acid solution are then added, and the mixture is heated under reflux overnight. Using 1N aqueous sodium hydroxide solution, the suspension is then adjusted to pH 10, resulting in the precipitation of crystals. The solid is filtered off, washed with a little water and then dissolved in DMSO and purified by preparative RP-HPLC.

reactant | 2-fluoro-N1-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-4-yl)benzene-1,4-diamine | 0.19 mmol, 70 mg | FC1=C(C=CC(=C1)N)NC1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C | C19H25FN4OSi
reactant | 4-chloro-6-pyridin-4-ylpyrimidine-2-amine | 0.20 mmol, 41 mg | ClC1=NC(=NC(=C1)C1=CC=NC=C1)N | C9H7ClN4
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | water | 2.5 ml | O | H2O
product | N4-[3-Fluoro-4-(1H-pyrrolo[2,3-b]pyridin-4-ylamino)phenyl]-6-pyridin-4-ylpyrimidine-2,4-diamine | FC=1C=C(C=CC1NC1=C2C(=NC=C1)NC=C2)NC2=NC(=NC(=C2)C2=CC=NC=C2)N | C22H17FN8
